### PR TITLE
[Merged by Bors] - feat: lifting Ring/AlgHom to purely inseparable extension

### PR DESCRIPTION
**Pull request by alreadydone**
The existing theorem `IsPurelyInseparable.injective_comp_algebraMap` says that if E/F is purely inseparable, then every RingHom from F to a reduced commutative ring L lifts in at most one way to E. This PR shows if L is a perfect field, then such a RingHom always lifts to E, and also add AlgHom versions. For this purpose we slightly generalize `natSepDegree_map` and deduce `PerfectField.splits_of_natSepDegree_eq_one`.

Also add theorem `Field.Emb.cardinal_separableClosure` saying that the F-embeddings of an algebraic extension E/F are equipotent with F-embeddings of `separableClosure F E`.

Since `Algebra.IsAlgebraic` is now a class, two theorems are made instances.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by alreadydone** [comment]
!bench

**Review by acmepjz — COMMENTED** [review]
Looks good to me. Are there other results referring these two explicitly? Maybe they can be just `inferInstance` now.

**Comment by alreadydone** [comment]
> Looks good to me. Are there other results referring these two explicitly? Maybe they can be just `inferInstance` now.

Good point! There are two uses of one theorem and one use of the other, and another in #9480.

**Comment by acmepjz** [comment]
I plan to finish all TODOs in `Mathlib/FieldTheory/PurelyInseparable.lean` in PR #18770. Currently there are only one remaining. Can you check if they will conflict with your PR?

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 1]
```diff
@@ -537,6 +537,32 @@ theorem IsPurelyInseparable.injective_comp_algebraMap [IsPurelyInseparable F E]
   haveI := expChar_of_injective_ringHom (f.comp (algebraMap F E)).injective q
   exact iterateFrobenius_inj L q n heq
 
+theorem IsPurelyInseparable.injective_comp_toAlgHom [IsPurelyInseparable F E] (R L) [CommSemiring R]
+    [CommRing L] [IsReduced L] [Algebra R F] [Algebra R E] [Algebra R L] [IsScalarTower R F E] :
+    Function.Injective fun f : E →ₐ[R] L ↦ f.comp (IsScalarTower.toAlgHom R F E) := fun _ _ eq ↦
```
Comment (mbkybky) [inline Mathlib/FieldTheory/PurelyInseparable.lean:542]: I think maybe `fun f : E →ₐ[R] L ↦ f.comp (IsScalarTower.toAlgHom R F E)` is almost the same as `AlgHom.restrictDomain`.

Comment (mbkybky) [reply Mathlib/FieldTheory/PurelyInseparable.lean:542]: I think now the order of variables in the definition of `AlgHom.restrictDomain` is not well arranged, which causes a subtle difference between it and `fun f : E →ₐ[R] L ↦ f.comp (IsScalarTower.toAlgHom R F E)`. Therefore, maybe order of variables in the definition of `AlgHom.restrictDomain` should be changed, so that we could directly write `AlgHom.restrictDomain` here.

**Comment by alreadydone** [comment]
> I plan to finish all TODOs in `Mathlib/FieldTheory/PurelyInseparable.lean` in PR #18770. Currently there are only one remaining. Can you check if they will conflict with your PR?

I don't see any conflicts. Everything in this PR is rather trivial, while the TODOs are not.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 2]
```diff
@@ -347,10 +347,11 @@ theorem natSepDegree_eq_of_isAlgClosed [DecidableEq E] [IsAlgClosed E] :
...
 
-variable (E) in
-theorem natSepDegree_map : (f.map (algebraMap F E)).natSepDegree = f.natSepDegree := by
+theorem natSepDegree_map (f : E[X]) (i : E →+* K) : (f.map i).natSepDegree = f.natSepDegree := by
   classical
-  simp_rw [natSepDegree_eq_of_isAlgClosed (AlgebraicClosure E), aroots_def, map_map,
+  let _ := i.toAlgebra
+  rw [show i = algebraMap E K by rfl]
+  simp_rw [natSepDegree_eq_of_isAlgClosed (AlgebraicClosure K), aroots_def, map_map,
     ← IsScalarTower.algebraMap_eq]
```
Comment (acmepjz) [inline Mathlib/FieldTheory/SeparableDegree.lean:355]: one line shorter (untested)

```suggestion
  simp_rw [show i = algebraMap E K by rfl, natSepDegree_eq_of_isAlgClosed (AlgebraicClosure K),
    aroots_def, map_map, ← IsScalarTower.algebraMap_eq]
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
